US07897607B2
4-Amino-N,3-dimethyl-1-(2,4,6-trichlorophenyl)-1H-pyrazole-5-carboxamide
A mixture of N,3-dimethyl-4-nitro-1-(2,4,6-trichlorophenyl)-1H-pyrazole-5-carboxamide (42 mg, 0.116 mmol) and tin (II) chloride (110 mg, 0.578 mmol) was stirred at 80° C. for 3 h and diluted with saturated sodium bicarbonate. The aqueous solution was extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate and concentrated under vacuum. The residue was purified by silica gel chromatography eluting with 50% ethyl acetate/hexane to give the title compound (20 mg, 52%).

reactant | N,3-dimethyl-4-nitro-1-(2,4,6-trichlorophenyl)-1H-pyrazole-5-carboxamide | 0.116 mmol, 42 mg | CNC(=O)C1=C(C(=NN1C1=C(C=C(C=C1Cl)Cl)Cl)C)[N+](=O)[O-] | C12H9Cl3N4O3
reactant | tin (II) chloride | 0.578 mmol, 110 mg | [Sn](Cl)Cl
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 4-Amino-N,3-dimethyl-1-(2,4,6-trichlorophenyl)-1H-pyrazole-5-carboxamide | 20 mg, 52% | NC=1C(=NN(C1C(=O)NC)C1=C(C=C(C=C1Cl)Cl)Cl)C | C12H11Cl3N4O
